US07777047B2
N-{5-[(1S)-2-methoxy-1-methylethoxy]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide
To a solution of N-{5-hydroxy-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide (145 mg) in toluene (2 mL) and tetrahydrofuran (1 mL) were added tributylphosphine (0.22 mL), (2R)-1-methoxypropan-2-ol (0.057 mL) and 1,1′-(azodicarbonyl)dipiperidine (220 mg), and the mixture was stirred at 80° C. for 3 hr, and concentrated. The residue was diluted with ethyl acetate, and subjected to basic silica gel column chromatography (eluate: ethyl acetate), and the obtained crude product was purified by silica gel column chromatography (hexane:ethyl acetate=3:1-1:2) to give the title compound (80 mg, yield 48%) as a colorless powder.

reactant | N-{5-hydroxy-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide | 145 mg | OC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CN1CCSCC1 | C22H25N5O3S3
reactant | tributylphosphine | 0.22 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2R)-1-methoxypropan-2-ol | 0.057 mL | COC[C@@H](C)O | C4H10O2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 220 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-{5-[(1S)-2-methoxy-1-methylethoxy]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide | 80 mg, yield 48% | COC[C@@H](OC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CN1CCSCC1)C | C26H33N5O4S3
